US05480873
2-(1H-Benzimidazol-2-yl)-4,5-diacetoxy-9,10-dihydro-9,10-dioxoanthracene hydrochloride salt
A 1 molar solution of methanolic hydrogen chloride (10 ml) was added to a solution of 2-(1H-benzimidazol-2-yl)-4,5-diacetoxy-9,10-dihydro-9,10-dioxoanthracene (0.045 g).

reactant | 2-(1H-benzimidazol-2-yl)-4,5-diacetoxy-9,10-dihydro-9,10-dioxoanthracene | 0.045 g | N1C(=NC2=C1C=CC=C2)C2=CC=1C(C3=CC=CC(=C3C(C1C(=C2)OC(C)=O)=O)OC(C)=O)=O | C25H16N2O6
reactant | hydrogen chloride | 10 ml | Cl | ClH
product | 2-(1H-Benzimidazol-2-yl)-4,5-diacetoxy-9,10-dihydro-9,10-dioxoanthracene hydrochloride salt | Cl.N1C(=NC2=C1C=CC=C2)C2=CC=1C(C3=CC=CC(=C3C(C1C(=C2)OC(C)=O)=O)OC(C)=O)=O | InChI=1S/C25H16N2O6.ClH/c1-12(28)32-19-9-5-6-15-21(19)24(31)22-16(23(15)30)10-14(11-20(22)33-13(2)29)25-26-17-7-3-4-8-18(17)27-25;/h3-11H,1-2H3,(H,26,27);1H
